US05084593
1,5-bis-(p-di-n-butylaminophenyl)-1,5-bis-(p-methoxyphenyl)-1,4-pentadiene-3-acetylacetone (Leuco Dye No. 26)
1.2 g of a 60% sodium hydride was dispersed in 200 ml of well-dried N,N-dimethylformamide (DMF) in a 300-ml. Erlenmeyer flask. To this dispersion, 3.00 g of acetylacetone was slowly added at room temperature and the mixture was stirred for 1 hour. To this mixture, 15.71 g of 1,5-bis-(p-di-n-butylaminophenyl)-1,5-bis-(p-methoxyphenyl)-2,4-pentadiene-1-ol-perchlorate prepared in Synthesis Example 2,5 was slowly added. This reaction mixture was stirred at room temperature for 1 hour. Then the reaction mixture was poured into 1 l of ice water. As a result, solids separated from the reaction mixture. The solids were washed with water and dried under reduced pressure. After the completion of drying, the solids were subjected to column chromatography, so that 10.0 g of 1,5-bis-(p-di-n-butylaminophenyl)-1,5-bis-(p-methoxyphenyl)-1,4-pentadiene-3-acetylacetone (Leuco Dye No. 26 ) according to the present invention was obtained in the form of light yellow viscous material. The yield was 63.7%. The characteristics absorption bands in the infrared spectrum of the thus obtained product were as follows:

reactant | sodium hydride | [H-].[Na+]
reactant | acetylacetone | 3.00 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | 1,5-bis-(p-di-n-butylaminophenyl)-1,5-bis-(p-methoxyphenyl)-2,4-pentadiene-1-ol perchlorate | 15.71 g | C(CCC)N(C1=CC=C(C=C1)C(C=CC=C(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)N(CCCC)CCCC)(O)C1=CC=C(C=C1)OC)CCCC.Cl(=O)(=O)(=O)[O-]
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 1,5-bis-(p-di-n-butylaminophenyl)-1,5-bis-(p-methoxyphenyl)-1,4-pentadiene 3-acetylacetone | yield was 63.7% | C(CCC)N(C1=CC=C(C=C1)C(=CCC=C(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)N(CCCC)CCCC)C1=CC=C(C=C1)OC)CCCC.C(C)(=O)CC(C)=O | InChI=1S/C47H62N2O2.C5H8O2/c1-7-11-34-48(35-12-8-2)42-26-18-38(19-27-42)46(40-22-30-44(50-5)31-23-40)16-15-17-47(41-24-32-45(51-6)33-25-41)39-20-28-43(29-21-39)49(36-13-9-3)37-14-10-4;1-4(6)3-5(2)7/h16-33H,7-15,34-37H2,1-6H3;3H2,1-2H3
